US08871754B2
A suspension of 3-bromo-5-(1-bromoethyl)pyrazolo[1,5-a]pyridine (I-18, 400 mg, 1.32 mmol), N,5-dimethylpyridin-2-amine (230 mg, 1.98 mmol) and K2CO3 (546 mg, 3.96 mmol) in acetonitrile was heated to 90° C. in a sealed tube for overnight. The reaction mixture was cooled to room temperature and water (10 mL) was added. The aqueous phase was extracted with ethyl acetate (2×10 mL). The combined organic layers were dried over Na2SO4 and solvents were removed under reduced pressure. The resulting crude product was purified by column chromatography over silica gel (petroleum ether/EtOAc, 0-4% EtOAc) to afford 210 mg (46%) of N-(1-(3-bromopyrazolo[1,5-a]pyridin-5-yl)ethyl)-N,5-dimethylpyridin-2-amine (I-19) as a yellow solid. ESI-LC/MS (m/z): [M+H]+ 345.2, [(M+2)+H]+ 347, RT 3.31 min.

reactant | 3-bromo-5-(1-bromoethyl)pyrazolo[1,5-a]pyridine | 1.32 mmol, 400 mg | BrC=1C=NN2C1C=C(C=C2)C(C)Br | C9H8Br2N2
reactant | N,5-dimethylpyridin-2-amine | 1.98 mmol, 230 mg | CNC1=NC=C(C=C1)C | C7H10N2
reactant | K2CO3 | 3.96 mmol, 546 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 10 mL | O | H2O
solvent | acetonitrile | C(C)#N | C2H3N
product | N-(1-(3-bromopyrazolo[1,5-a]pyridin-5-yl)ethyl)-N,5-dimethylpyridin-2-amine | 210 mg, 46% | BrC=1C=NN2C1C=C(C=C2)C(C)N(C2=NC=C(C=C2)C)C | C16H17BrN4
